US07842694B2
5-Chloro-6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylic acid
To a solution of methyl 5-chloro-6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylate (1.2 g, 2.09 mmol) in THF (50 mL) was added a solution of lithium hydroxide monohydrate (0.219 g, 5.22 mmol) in water (30 mL). The mixture was allowed to stir under RT overnight. The THF was removed in vacuo and the resulting solution was partitioned between water (50 mL) and ethyl acetate (75 mL), and the ethyl acetate layer separated, washed with brine and dried (MgSO4). The aqueous layer was then adjusted to pH 7 by addition of 1N hydrochloric acid (5.2 mL) and partitioned between ethyl acetate (75 mL). The ethyl acetate layer was separated, washed with brine and dried (MgSO4). The ethyl acetate layers were combined and evaporated to give the required product (1.1 g).

reactant | methyl 5-chloro-6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylate | 2.09 mmol, 1.2 g | ClC=1C=C(C=NC1OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C(=O)OC | C27H35ClN4O6Si
reactant | lithium hydroxide monohydrate | 5.22 mmol, 0.219 g | O.[OH-].[Li+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 5-Chloro-6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylic acid | 1.1 g | ClC=1C=C(C=NC1OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C(=O)O | C26H33ClN4O6Si
